US09328067B2
3-{[4-chloro-2-({[4-chloro-3-(trifluoromethyl)phenyl]sulfonyl}amino)phenyl]sulfanyl}-N,N-diethylpropanamide
Following General Procedure B, the title compound (999 mg, 85%) was prepared from 3-((2-amino-4-chlorophenyl)thio)-N,N-diethylpropanamide (635 mg, 2.22 mmol) and 4-chloro-3-(trifluoromethyl)benzene-1-sulfonyl chloride (619 mg, 2.22 mmol) in pyridine (6 ml).

reactant | 3-((2-amino-4-chlorophenyl)thio)-N,N-diethylpropanamide | 2.22 mmol, 635 mg | NC1=C(C=CC(=C1)Cl)SCCC(=O)N(CC)CC | C13H19ClN2OS
reactant | 4-chloro-3-(trifluoromethyl)benzene-1-sulfonyl chloride | 2.22 mmol, 619 mg | ClC1=C(C=C(C=C1)S(=O)(=O)Cl)C(F)(F)F | C7H3Cl2F3O2S
solvent | pyridine | 6 ml | N1=CC=CC=C1 | C5H5N
product | 3-{[4-chloro-2-({[4-chloro-3-(trifluoromethyl)phenyl]sulfonyl}amino)phenyl]sulfanyl}-N,N-diethylpropanamide | 999 mg, 85% | ClC1=CC(=C(C=C1)SCCC(=O)N(CC)CC)NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F | C20H21Cl2F3N2O3S2
